US07875728B2
1-(4-bromophenyl)-4-phenylazo-1H-pyrazole-3,5-diamine was prepared using 85 mg (0.5 mmol) of 2-(phenylhydrazono)malononitrile, which was derived from aniline (10 mL, 107 mmol) and malononitrile (161 mmol), and 4-bromophenylhydrazine hydrochloride (112 mg, 0.5 mmol) with the addition of 0.5 mL of 5% sodium hydroxide solution. Solids had not formed after heating the reaction at 75° C. for 3 hrs, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to ambient temperature and the solvent was evaporated. The residue was dissolved in methanol and then precipitated by the addition of water. The resulting solid was isolated by filtration and dried to yield 49 mg (27%) of the compound as a brown solid.

reactant | 2-(phenylhydrazono)malononitrile | 0.5 mmol, 85 mg | C1(=CC=CC=C1)NN=C(C#N)C#N | C9H6N4
reactant | aniline | 107 mmol, 10 mL | NC1=CC=CC=C1 | C6H7N
reactant | malononitrile | 161 mmol | C(CC#N)#N | C3H2N2
reactant | 4-bromophenylhydrazine hydrochloride | 0.5 mmol, 112 mg | Cl.BrC1=CC=C(C=C1)NN
reactant | sodium hydroxide | 0.5 mL | [OH-].[Na+]
product | 1-(4-bromophenyl)-4-phenylazo-1H-pyrazole-3,5-diamine | BrC1=CC=C(C=C1)N1N=C(C(=C1N)N=NC1=CC=CC=C1)N | C15H13BrN6
